US09233968B1
A reaction mixture of 4-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline (93.6 mg, 0.4 mmol, 1 eq) and m-tolyl isocyanate (0.051 mL, 1 eq) in anhydrous THF (4 mL) was stirred at room temperature for four hours. It was then diluted with water and a solid which precipitated was filtered. The solid was further triturated with ethyl acetate and 1-[4-(imidazo[1,2-b]pyridazin-6-ylethynyl)phenyl]-3-(3-methylphenyl)urea was obtained as a yellow solid upon filtration in amount of 125 mg.

reactant | 4-(imidazo[1,2-b]pyridazin-6-ylethynyl)aniline | 0.4 mmol, 93.6 mg, 1 eq | N=1C=CN2N=C(C=CC21)C#CC2=CC=C(N)C=C2 | C14H10N4
reactant | m-tolyl isocyanate | 0.051 mL, 1 eq | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 1-[4-(imidazo[1,2-b]pyridazin-6-ylethynyl)phenyl]-3-(3-methylphenyl)urea | N=1C=CN2N=C(C=CC21)C#CC2=CC=C(C=C2)NC(=O)NC2=CC(=CC=C2)C | C22H17N5O
